US08283354B2
A mixture of 2-(4-((S)-3-(aminomethyl)pyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol (200 mg, 0.6 mmol), THF (6.0 mL), and CH2Cl2 was stirred under an N2 atmosphere. Triethylamine (0.166 mL, 1.2 mmol) was added, and the reaction was cooled in an ice bath. To this was added 1 M isobutyl chloroformate solution (78 μL in 600 μL THF, 0.6 mmol). After allowing the reaction mixture to warm to room temperature, CH2Cl2 was added, and the organic solution washed twice with water, then dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using 0-20% EtOAc in CH2Cl2/hexanes (1:1) gave isobutyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate (183 mg, 70%). LC/MS: m/z 435.5 (M+H)+ at 2.63 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). LC/MS: m/z 435 (M+H)+ at 2.63 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.43 (dd, J=8.2, 1.8 Hz, 1H), 8.22 (d, J=8.7 Hz, 1H), 7.58 (s, 1H), 7.42-7.31 (m, 3H), 6.93-6.89 (m, 2H), 4.17-3.91 (m, 3H), 3.80-3.69 (m, 3H), 3.34-3.30 (m, 1H), 3.21-3.07 (m, 2H), 2.49 (s, 3H), 2.16-2.08 (m, 1H), 1.88-1.74 (m, 2H), 0.88 (d, J=6.7 Hz, 6H).

reactant | 2-(4-((S)-3-(aminomethyl)pyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol | 0.6 mmol, 200 mg | NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C20H22N4O
reactant | THF | 6.0 mL | C1CCOC1 | C4H8O
reactant | Triethylamine | 1.2 mmol, 0.166 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.6 mmol, 1 M, 78 μL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | isobutyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate | 183 mg, 70% | C(C(C)C)OC(NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C25H30N4O3
